US07129237B2
7-methoxy-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine
To a solution of 7-methoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (3.1 g, 15 mmol) in THF (26 mL), was added lithium aluminum hydride (1M solution in THF, 68 mL, 68 mmol) by dropwise addition over 20 minutes. The reaction was heated to 74° C. and held for 24 hours. After 24 hours, the reaction was quenched with water, 15% NaOH and another portion of water. The reaction mixture was then diluted with ethyl acetate and sodium sulfate was added. The reaction mixture was then stirred for 1 hour, after which it was filtered through a bed of celite, with subsequent washing of the bed with ethyl acetate. The solvent was removed from the filtrate to give the crude desired product. Further purification (1% ammonia in 2M solution of ethanol/ethyl acetate, then 3%, then 5%) yielded 1.9 g of the desired product as orange crystals (71%).

reactant | 7-methoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 15 mmol, 3.1 g | COC=1C=CC2=C(C(NCC(N2)=O)=O)C1 | C10H10N2O3
reactant | lithium aluminum hydride | 68 mmol, 1M, 68 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 7-methoxy-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine | 1.9 g, 71% | COC=1C=CC2=C(CNCCN2)C1 | C10H14N2O
